US04219660
Preparation of 4-nitro-3-methyl-2-butene-1-phosphonic acid diethylester
To 0.1 Mol of 1-bromo-3-methyl-4-nitro-2-butene was added 0.1 Mol of triethylphosphite. The reaction was started by immersing the mixture into a 50° C. bath and completed under continued removal of bromoethane by distillation. The residue was purified via column chromatography over silica gel using ether as solvent. The product was obtained as a yellowish liquid.

reactant | 1-bromo-3-methyl-4-nitro-2-butene | 0.1 Mol | BrCC=C(C[N+](=O)[O-])C | C5H8BrNO2
reactant | triethylphosphite | 0.1 Mol | C(C)OP(OCC)OCC | C6H15O3P
product | 4-nitro-3-methyl-2-butene-1-phosphonic acid diethylester | C(C)OP(OCC)(=O)CC=C(C[N+](=O)[O-])C | C9H18NO5P
